US07459455B2
To a stirred solution of N-(4-aminophenyl)acetamide (5 g, 0.033 mol) and NaHCO3 (5.6 g, 0.067 mol) in THF (20 mL) and ethanol (80 mL) was added 2,4-dichloropyrimidine (5.95 g, 0.04 mol) at room temperature. The reaction was gradually heated to 85° C. After the reaction was stirred for four hours at 85° C. under N2, the suspension was filtered and washed thoroughly with ethanol. The filtrate was concentrated under reduced pressure, and the resulting solid was washed with EtOAc to remove excess 2,4-dichloropyrimidine to yield 8.35 g (95.5% yield) of N-{4-[(2-chloropyrimidin-4-yl)amino]phenyl}acetamide as an off-white solid.

reactant | N-(4-aminophenyl)acetamide | 0.033 mol, 5 g | NC1=CC=C(C=C1)NC(C)=O | C8H10N2O
reactant | NaHCO3 | 0.067 mol, 5.6 g | C(=O)(O)[O-].[Na+]
reactant | 2,4-dichloropyrimidine | 0.04 mol, 5.95 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | N-{4-[(2-chloropyrimidin-4-yl)amino]phenyl}acetamide | 8.35 g, 95.5% yield | ClC1=NC=CC(=N1)NC1=CC=C(C=C1)NC(C)=O | C12H11ClN4O
